US04511391
A solution consisting of fuming nitric acid (0.84 g), glacial acetic acid (0.54 g) and acetic anhydride (0.54 g) was added to a mixture of 3-hydroxy-5-(3,4-methylenedioxyphenyl)-2-propionylcyclohex-2-en-1-one (2.60 g) and acetic anhydride (1.62 g) at 0° C. The mixture was stirred at 0°-3° C. for 1.5 hours with addition of extra portions of acetic anhydride when necessary to aid the stirring. The mixture was poured into water and the precipitate was collected and dried giving 3-hydroxy-5-(2-nitro-4,5-methylenedioxyphenyl)-2-propionylcyclohex-2-en-1-one as a yellow solid, mp 139° C.

reactant | nitric acid | 0.84 g | [N+](=O)(O)[O-] | HNO3
reactant | acetic acid | 0.54 g | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 0.54 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-hydroxy-5-(3,4-methylenedioxyphenyl)-2-propionylcyclohex-2-en-1-one | 2.60 g | OC1=C(C(CC(C1)C1=CC2=C(C=C1)OCO2)=O)C(CC)=O | C16H16O5
reactant | acetic anhydride | 1.62 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 3-hydroxy-5-(2-nitro-4,5-methylenedioxyphenyl)-2-propionylcyclohex-2-en-1-one | OC1=C(C(CC(C1)C1=C(C=C2C(=C1)OCO2)[N+](=O)[O-])=O)C(CC)=O | C16H15NO7
